US05010188
(1) 1-Benzyl-4-ethoxycarbonyl-4-hydroxypiperidine
Conc. sulfuric acid (12 ml) was added to an ethanol solution (50 ml) of 1-benzyl-4-cyano-4-hydroxypiperidine hydrochloride (10 g) and the resulting mixture was heated at 130° C. for 24 hours in a sealed tube. After concentration of the reaction mixture, ice water was added to the concentrate. The resulting mixture was added with an aqueous solution of sodium hydrogencarbonate. After adjusting the thus-obtained solution to pH 7.0, it was extracted with diethyl ether. The extract was washed with brine and then added with anhydrous sodium sulfate to dry the same. The solvent was distilled off to obtain the intended product (9.7 g).

reactant | sulfuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1-benzyl-4-cyano-4-hydroxypiperidine hydrochloride | 10 g | Cl.C(C1=CC=CC=C1)N1CCC(CC1)(O)C#N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 1-Benzyl-4-ethoxycarbonyl-4-hydroxypiperidine | 9.7 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C(=O)OCC | C15H21NO3
